US06897231B2
B. tert-Butyl 4-{N-[3-(5-carbamoyl-1-perhydro-2H-pyran-2-yl-1H-indazol-3-yl)phenyl]carbamoyl}piperidinecarboxylate
To a solution of tert-butyl 4-{N-[3-(5-cyano-1-perhydro-2H-pyran-2-yl-1H-indazol-3-yl)phenyl]carbamoyl}piperidinecarboxylate in 3 mL of ethanol, was added 3 mL of 30% commercially available H2O2 solution followed by 0.280 mL of 6.0 N aqueous NaOH solution. Within 30 min, the formation of an abundant white precipitate was observed. The mixture was acidified using a 6.0 N aqueous solution of HCl. Upon addition of water (20 mL), the formation of a precipitate was observed. The solid was collected by filtration, washed with small portions of water and dried in a vacuum oven overnight. The desired product was isolated as a pure white solid (0.277 g, 40% over 2 steps): ES-MS (m/z) 548 [M+H]+.

reactant | tert-butyl 4-{N-[3-(5-cyano-1-perhydro-2H-pyran-2-yl-1H-indazol-3-yl)phenyl]carbamoyl}piperidinecarboxylate | C(#N)C=1C=C2C(=NN(C2=CC1)C1OCCCC1)C=1C=C(C=CC1)NC(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C30H35N5O4
reactant | H2O2 | OO | H2O2
reactant | NaOH | 6.0 N, 0.280 mL | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | ethanol | 3 mL | C(C)O | C2H6O
solvent | water | 20 mL | O | H2O
product | tert-Butyl 4-{N-[3-(5-carbamoyl-1-perhydro-2H-pyran-2-yl-1H-indazol-3-yl)phenyl]carbamoyl}piperidinecarboxylate | C(N)(=O)C=1C=C2C(=NN(C2=CC1)C1OCCCC1)C=1C=C(C=CC1)NC(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C30H37N5O5
